US07244730B2
(Step 3) Methyl 2-(dimethylamino)-4-(hydroxymethyl)benzoate
After dissolving 4-benzyl 1-methyl 2-(dimethylamino)terephthalate (1.66 g, 5.3 mmol) in tetrahydrofuran (30 ml), 20% palladium hydroxide-carbon (0.20 g) was added prior to catalytic reduction for 15 minutes at room temperature and normal pressure. The catalyst was separated off, and the solvent was distilled off under reduced pressure to yield a light yellow amorphous substance. This was dissolved in tetrahydrofuran (15 ml), triethylamine (0.81 ml, 5.8 mmol) was added and ethyl chloroformate (0.55 ml, 5.8 mmol) was added dropwise while stirring on ice. After stirring for 30 minutes, the precipitate was filtered off and the filtrate was cooled to −40° C. and stirred. A solution of sodium borohydride (0.44 g, 11.6 mmol) in 5 ml of water was added dropwise, and the temperature of the mixture was gradually increased to −20° C. over a period of 30 minutes. Acetone was added to the reaction mixture, the insoluble portion was filtered off and the solvent was distilled off under reduced pressure. Water was added to the residue and extraction was performed with ethyl acetate. The ethyl acetate layer was washed with water and brine and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate). The title compound (1.02 g) was obtained as a light yellow oil. (92% yield)

reactant | 4-benzyl 1-methyl 2-(dimethylamino)terephthalate | 5.3 mmol, 1.66 g | CN(C1=C(C(=O)OC)C=CC(=C1)C(=O)OCC1=CC=CC=C1)C | C18H19NO4
reactant | triethylamine | 5.8 mmol, 0.81 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.8 mmol, 0.55 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 11.6 mmol, 0.44 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
catalyst | palladium hydroxide carbon | 0.20 g | [OH-].[Pd+2].[OH-].[C]
solvent | Acetone | CC(=O)C | C3H6O
product | Methyl 2-(dimethylamino)-4-(hydroxymethyl)benzoate | 1.02 g, 92% yield | CN(C1=C(C(=O)OC)C=CC(=C1)CO)C | C11H15NO3
